US07964607B2
1-cyclopentyl-6-{(3S,4S)-4-methyl-1-[(5-methylpyrazin-2-yl)methyl]pyrrolidin-3-yl}-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one
Following the procedure for the preparation of 1-cyclopentyl-6-[(3,4-trans)-4-methyl-1-(pyridin-3-ylmethyl)pyrrolidin-3-yl]-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one but substituting 1-cyclopentyl-6-[(3S,4S)-4-methylpyrrolidin-3-yl]-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one and 5-methylpyrazine-2-carbaldehyde provided the title compound. 400 MHz 1H NMR (CDCl3) δ 8.53 (s, 1H), 8.53 (s, 1H), 8.01 (s, 1H), 5.16-5.05 (m, 1H), 4.02 (d, J=14.1 Hz, 1H), 3.74 (d, J=14.1 Hz, 1H), 3.45-3.41 (m, 1H), 3.38 (t, J=8.3 Hz, 1 Hz, 1H), 3.08 (d, J=9.9 Hz, 1H), 2.84-2.83 (m, 1H), 2.62-2.54 (m, 1H), 2.52 (s, 3H), 2.47-2.40 (m, 1H), 2.14-1.89 (m, 6H), 1.71-1.64 (m, 2H), 1.24-1.16 (m, 3H). MS: (M+H m/z=394.1).

reactant | 1-cyclopentyl-6-[(3S,4S)-4-methylpyrrolidin-3-yl]-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one | C1(CCCC1)N1N=CC2=C1N=C(NC2=O)[C@@H]2CNC[C@H]2C | C15H21N5O
reactant | 5-methylpyrazine-2-carbaldehyde | CC=1N=CC(=NC1)C=O | C6H6N2O
product | 1-cyclopentyl-6-{(3S,4S)-4-methyl-1-[(5-methylpyrazin-2-yl)methyl]pyrrolidin-3-yl}-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | C1(CCCC1)N1N=CC2=C1N=C(NC2=O)[C@@H]2CN(C[C@H]2C)CC2=NC=C(N=C2)C | C21H27N7O
